US20010018525A1
3,5-Bis-(3,4-methylenedioxyphenyl)-4-methoxymethoxybenzoic acid ethyl ester was prepared as a white solid (3.1 g, 42.4%) in a similar manner to Step 1 of Example 143 from a 2:1 mixture of 3-bromo-4-methoxymethoxy-5-iodobenzoic acid ethyl ester and 3,5-dibromo-4-methoxymethoxybenzoic acid ethyl ester. There also yielded 780 mg of the monoarylated product. 1H NMR (CDCl3) δ1.37 (t, J=8.18 Hz, 3H); 2.80 (s, 3H); 4.36 (quartet, J=8.18 Hz, 2H); 4.46 (s, 2H); 6.00 (s, 4H); 6.87 (d, J=8.18 Hz, 2H); 7.05 (dd, J=8.18 Hz, 1.63 Hz, 2H); 7.11 (d, J=1.23 Hz, 2H); 7.95 (s, 2H).

reactant | 3-bromo-4-methoxymethoxy-5-iodobenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)I)OCOC)Br)=O | C11H12BrIO4
reactant | 3,5-dibromo-4-methoxymethoxybenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)Br)OCOC)Br)=O | C11H12Br2O4
product | 3,5-Bis-(3,4-methylenedioxyphenyl)-4-methoxymethoxybenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)C1=CC2=C(C=C1)OCO2)OCOC)C2=CC1=C(C=C2)OCO1)=O | C25H22O8
